US04062953
2-[2-(3-Azabicyclo[3.2.2]nonan-3-yl)ethyl]-1H-benz[de]-isoquinoline-1,3(2H)-dione, hydrocholoride (1:1)
10 g. (0.025 mole) of the 4-methylbenzenesulfonate ester of example 1(b), 3.32 g. (0.027 mole) of 3-azabicyclo[3.2.2]nonane, and 3.27 g. (0.025 mole) of diisopropylethylamine are refluxed in 500 ml. of toluene for three hours. The reaction mixture is then cooled, washed with 10% KOH and water. The resulting toluene solution is shaken with 10% HCl and the resulting precipitate is filtered from the two phases. This salt is dissolved in a minimum of hot methanol, precipitated with ether, filtered, and dried at 80° under vacuum to yield 4.45 g. of 2-[2-(3-azabicyclo[3.2.2]nonan-3-yl)ethyl]-1H-benz[de]isoquinoline-1,3(2H)-dione, hydrochloride (1:1); m.p. 301°-302° (dec.).

reactant | 3-azabicyclo[3.2.2]nonane | 0.027 mole | C12CNCC(CC1)CC2 | C8H15N
reactant | diisopropylethylamine | 0.025 mole | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-[2-(3-azabicyclo[3.2.2]nonan-3-yl)ethyl]-1H-benz[de]isoquinoline-1,3(2H)-dione, hydrochloride | Cl.C12CN(CC(CC1)CC2)CCN2C(C1=CC=CC=3C1=C(C2=O)C=CC3)=O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(3-Azabicyclo[3.2.2]nonan-3-yl)ethyl]-1H-benz[de]-isoquinoline-1,3(2H)-dione | C12CN(CC(CC1)CC2)CCN2C(C1=CC=CC=3C1=C(C2=O)C=CC3)=O | C22H24N2O2
